US09403847B2
Step C: 2-Ethylpyrazolo[1,5-a]pyridine
2-Ethylpyrazolo[1,5-a]pyridine-3-carboxylic acid (4.1 g, 22 mmol) was stirred in water (100 mL) and sulfuric acid (2.5 mL) was added. The mixture was heated at 70° C. for 2 h and cooled to 20° C. The mixture was poured into ethyl acetate and neutralized with saturated sodium bicarbonate. The extracts were separated and the aqueous layer was extracted with ethyl acetate. The combined extracts were dried (sodium sulfate) and evaporated to give the desired compound (2.6 g, 82%). LCMS for C9H11N2 (M+H)+: m/z=147.1. 1H NMR (300 MHz, DMSO-d6): δ 8.52 (m, 1 H), 7.57 (m, 1 H), 7.11 (m, 1 H), 6.75 (m, 1 H), 6.38 (s, 1 H), 2.73 (m, 2 H), 1.22 (m, 3 H).

reactant | 2-Ethylpyrazolo[1,5-a]pyridine-3-carboxylic acid | 22 mmol, 4.1 g | C(C)C1=NN2C(C=CC=C2)=C1C(=O)O | C10H10N2O2
reactant | sulfuric acid | 2.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 mL | O | H2O
product | 2-Ethylpyrazolo[1,5-a]pyridine | 2.6 g, 82% | C(C)C1=NN2C(C=CC=C2)=C1 | C9H10N2
